US08703922B2
Synthesis of mono-O-(5,9,13,17-tetramethyloctadec-4-enoyl)pentaerythritol
Under reduced pressure of 60-70 mmHg and nitrogen gas stream, 250 g (0.71 mol) of methyl 5,9,13,17-tetramethyloctadec-4-enoate was slowly added dropwise at 78-83° C. to a solution of 157 g (1.15 mol) of pentaerythritol and 1.58 g (1.15 mmol) of potassium carbonate in dry N,N-dimethylformamide (700 mL). After the reaction mixture was stirred at the same temperature for 10 hours, formic acid was added at 75° C. to adjust the pH to 4. After the resulting solution was subjected to vacuum concentration, the residue was diluted with t-butylmethylether (1.5 L), and the resulting insoluble matter was separated by filtration. The filtrate was washed with 10% sodium bicarbonate aqueous solution twice, and decolorized with activated carbon (8 g). After filtration, the filtrate was concentrated, and the residue was purified by silica gel column chromatography (hexane/ethyl acetate mixture) to obtain the title compound.

reactant | methyl 5,9,13,17-tetramethyloctadec-4-enoate | 0.71 mol, 250 g | CC(=CCCC(=O)OC)CCCC(CCCC(CCCC(C)C)C)C | C23H44O2
reactant | pentaerythritol | 1.15 mol, 157 g | OCC(CO)(CO)CO | C5H12O4
reactant | potassium carbonate | 1.15 mmol, 1.58 g | C([O-])([O-])=O.[K+].[K+]
reactant | formic acid | C(=O)O | CH2O2
solvent | N,N-dimethylformamide | 700 mL | CN(C=O)C | C3H7NO
product | mono-O-(5,9,13,17-tetramethyloctadec-4-enoyl)pentaerythritol | CC(=CCCC(=O)OCC(CO)(CO)CO)CCCC(CCCC(CCCC(C)C)C)C | C27H52O5
